US08865690B2
4 g (11.6 mM) of 17α,21-dihydroxy-pregna-4,9(11)-diene-3,20-dione were reacted with 20 mg of trifluoroacetic acid in 20 ml of dioxane and 10 ml of ethyl orthobutyrate for 5 hours at 100° C., and the low boiling head fraction was distilled off. The solution was cooled, then treated with 5 ml of a tartaric acid molar solution and heated to 40-50° C. for about 5 minutes to obtain 17α-butanoyloxy-21-hydroxy-pregna-4,9(11)-diene-3,20-dione. The solvent was evaporated off under vacuum and the residue was repeatedly taken up with dioxane. The resulting residue was dissolved in 200 ml of acetone and then 12 g trifluoroethyl octadecanoate (prepared from octadecanoyl chloride and trifluoroethanol), 20 g of Candida cylindracea lipase were added and the resulting suspension was stirred for 8-10 hours at 50° C., adding 2 g of C. cylindracea at regular time intervals. The lipase was filtered off, the filtrate was concentrated under vacuum and the residue was chromatographed on a silica gel column with a dichloromethane/methanol 98.5:1.5 mixture. The neat fraction was evaporated to obtain 4.9 g (7.17 mM) of 17α-butanoyloxy-21-octadecanoyloxy-pregna-4,9(11)-diene-3,20-dione.

reactant | 17α,21-dihydroxy-pregna-4,9(11)-diene-3,20-dione | 11.6 mM, 4 g | O[C@]1(C(CO)=O)CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)C3=CC[C@]12C)=O | C21H28O4
reactant | trifluoroacetic acid | 20 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | ethyl orthobutyrate | 10 ml | C(CCC)(OCC)([O-])[O-]
product | 17α-butanoyloxy-21-hydroxy-pregna-4,9(11)-diene-3,20-dione | C(CCC)(=O)O[C@]1(C(CO)=O)CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)C3=CC[C@]12C)=O | C25H34O5
